US06297375B1
g) 2-(3,5-Bis-trifluoromethyl-phenyl)-N-methyl-N-(6-morpholin-4-yl-4-o-tolyl-pyridin-3-yl)-isobutyramide
A solution of 1.46 g (5.15 mmol) methyl-(6-morpholin-4-yl-4-o-tolyl-pyridin-3-yl)-amine and 1.32 ml (7.73 mmol) N-ethyldiisopropylamine in 15 ml dichloromethane was cooled in an ice bath and 1.8 g (5.67 mmol)2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride were added dropwise. The reaction mixture was warmed to 35-40° C. for 3 h, cooled to room temperature again and was stirred with 25 ml saturated sodium bicarbonate solution. The organic layer was separated and the aqueous phase was extracted with dichloromethane. The combined organic layers were dried (magnesium sulfate) and evaporated. The residue was purified by flash chromatography to give 2.9 g (quantitative) of the title compound as white crystals. M.p. 131-132° C.

reactant | methyl-(6-morpholin-4-yl-4-o-tolyl-pyridin-3-yl)-amine | 5.15 mmol, 1.46 g | CNC=1C=NC(=CC1C1=C(C=CC=C1)C)N1CCOCC1 | C17H21N3O
reactant | N-ethyldiisopropylamine | 7.73 mmol, 1.32 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride | 5.67 mmol, 1.8 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)Cl)(C)C)(F)F | C12H9ClF6O
reactant | sodium bicarbonate | 25 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-methyl-N-(6-morpholin-4-yl-4-o-tolyl-pyridin-3-yl)-isobutyramide | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C=1C=NC(=CC1C1=C(C=CC=C1)C)N1CCOCC1)C)(C)C)(F)F | C29H29F6N3O2
